Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfur-8
 
Attending: ___.
 
Chief Complaint:
Incontinence and lower back pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
HISTORY OF PRESENT ILLNESS:  
 Ms. ___ is a ___ year old woman with history of herniated 
disc in L4, L5, S1, hypothyroidism, and asthma, who is 
presenting with two weeks of lower back pain and incontinence.  
 The patient shares two weeks ago she was pushing a car, and 
shortly after developed low back pain. She has constant lower 
back pain that radiates down both legs, with no lower extremity 
numbness or tingling. In addition, she has since been 
incontinent of both urine and stool. She called PCP today, who 
recommended ED evaluation for spinal cord issue. She has had no 
fevers, chills, altered mental status. She has no history of 
IVDU or known malignancy.  
 In the ED, VS 96.9 82 149/107 18 99% RA. Her exam was notable 
for 'mild lumbar spine tenderness to palpation, strength ___ all 
extremities, sensation intact extremities, genital area, rectal 
tone intact.' Labs were notable for WBC 8.3, Hb 13.8, Cr 0.6, UA 
withtrace ___, 10 Epis. A code cord was called, and MRI L spine 
showed: L4-L5 moderate to severe bilateral neural foraminal 
narrowing secondary to disc bulge and L5-S1 central disc 
protrusion without significant foraminal narrowing. Spine was 
consulted and said no urgent or emergent neurosurgical 
intervention indicated at this time; they recommended medicine 
admission for pain control and further workup by neurology. They 
added that she may need surgical intervention in the near 
future. She was given 0.5 mg IV dilaudid in the ED, but was also 
noted to be taking her own vicodin.  
 On the floor, patient reports that she is still in significant 
pain but is primarily concerned about her fecal incontinence as 
it is emabarassing and has been an issue at work and home.  
 
Past Medical History:
- Hypothyroidism  
- Anxiety  
- HTN  
- COPD v Asthma  
- H/o left leg stress fracture  
- Right sided lumbosacral radiculopathy ___ L5-S1 disc bulge, 
followed in pain clinic, L4-L5 disc bulge with mild bilateral 
neural foraminal narrowing  
 
Social History:
___
Family History:
- Mother with HTN, HCC, CAD and RA.
 
Physical Exam:
ADMISSION EXAM
==============
 VS: 98.2 118/82 66 18 96RA  
 Gen: Very well appearing. No distress.  
 HEENT: OP clear, PERRL.  
 CV: RRR, normal S1/S2. No m/r/g  
 Pulm: CTAB  
 Abd: Soft, NT/ND  
 GU: no foley. Normal anal sphincter tone  
 Ext: warm, well perfused  
 Skin: intact  
 Spine: No stepoffs or focal vertebral tenderness. significant 
paraspinal/sacral tenderness  
 Neuro: MAE without significant pain while talking. Straight leg 
rise with good effort and normal hip and knee ROM. ___ strength 
and normal sensation. Normal coordination.  
 Psych: Pleasant.  

DISCHARGE EXAM
==============
VITALS: Tmax 98.2 BP 90-130/60-80s HR 60-70s RR 18 ___ on 
RA
Gen: Well appearing. No distress.  
HEENT: OP clear, PERRL.  
CV: RRR, normal S1/S2. No m/r/g  
Pulm: CTAB  
Abd: Soft, NT/ND  
GU: No foley.   
Ext: warm, well perfused  
Skin: intact  
Spine: No stepoffs or focal vertebral tenderness. significant 
paraspinal/sacral tenderness  
Neuro: 4+/5 strength and normal sensation bilaterally. Normal 
coordination.  
 
Pertinent Results:
ADMISSION LABS
==============
___ 08:30PM BLOOD WBC-8.3 RBC-4.67 Hgb-13.8 Hct-42.9 MCV-92 
MCH-29.6 MCHC-32.2 RDW-13.1 RDWSD-44.1 Plt ___
___ 08:30PM BLOOD Neuts-42.7 ___ Monos-8.0 Eos-5.3 
Baso-1.0 Im ___ AbsNeut-3.53 AbsLymp-3.55 AbsMono-0.66 
AbsEos-0.44 AbsBaso-0.08
___ 08:30PM BLOOD Plt ___
___ 08:30PM BLOOD Glucose-88 UreaN-9 Creat-0.6 Na-140 K-3.6 
Cl-104 HCO3-24 AnGap-16
___ 08:30PM BLOOD Calcium-9.3 Phos-4.1 Mg-2.1

MICRO
=====
___ CULTURE-FINALEMERGENCY WARD

IMAGING
=======
___ MR ___
IMPRESSION: 
Mild degenerative changes in the lumbar spine, with increased 
left sided disc 
protrusion in L5-S1 impinging on the left S1 nerve root.

___ MR ___ and T SPINE 
IMPRESSION:
1. Mild degenerative changes in the cervical spine.
2. Normal thoracic spine.

DISCHARGE LABS
==============
___ 06:22AM BLOOD WBC-7.0 RBC-4.18 Hgb-12.9 Hct-39.7 MCV-95 
MCH-30.9 MCHC-32.5 RDW-13.0 RDWSD-44.8 Plt ___
___ 06:22AM BLOOD Plt ___
___ 06:22AM BLOOD Glucose-93 UreaN-12 Creat-0.6 Na-137 
K-4.0 Cl-104 HCO3-23 AnGap-14
___ 06:22AM BLOOD Calcium-8.3* Phos-3.5 Mg-2.0
 
Brief Hospital Course:
HOSPITAL COURSE
===============
Ms. ___ is a ___ year old woman with history of herniated 
disc in L4, L5, S1, hypothyroidism, and asthma, who presented 
with two weeks of worsening lower back pain and fecal/urinary 
incontinence after pushing her car along the road. MRI spine was 
negative for any cord compression. She was evaluated by 
neurosurgery who did not recommend acute intervention. She was 
admitted for pain control. Her incontinence had resolved for the 
past 2 days and her pain returned to her baseline ___. 
Neurosurgery recommended she may follow up in clinic as needed. 
Patient was able to ambulate and was discharged home and to 
follow up with PCP for further outpatient workup.

ACUTE ISSUES
============
# Acute on Chronic Back Pain: Patient with long standing history 
of back pain since age ___, presenting with acute exacerbation 
with associated shooting leg pain/parasthesias, fecal and 
urinary incontinence in setting of pushing her car two weeks 
prior to admission. Now s/p MRI spine in the ED without evidence 
of acute cord or focal nerve compression. Per neurosurgery no 
acute intervention required and no precautions required. She was 
admitted for pain control. Her incontinence had resolved for the 
past 2 days and her pain returned to her baseline ___. 
Discharged with ibuprofen, gabapentin, lidocaine, and home 
Vicodin.

# Fecal/Urinary Incontinence: Patient presenting with acute back 
pain and fecal/urinary incontinence. No acute nerve compression 
identified on MRI to explain symptoms. At this point favor pain 
and extra-axial nerve compression as etiology. None in past 48 
hours prior to discharge. Patient to f/u with PCP for further 
workup and treatment.

CHRONIC ISSUES
==============
# Hypothyroidism: Continued levothyroxine. 

# Anxiety/Depression: Continued sertraline, clonazepam. 

TRANSITIONAL ISSUES
===================
[] New medications
- Gabapentin 300 mg PO/NG TID 
- Lidocaine 5% Patch 1 PTCH TD QPM 
[] Follow up appointment with PCP and neurosurgery as above
[] Patient to call PCP or return to ED if develops an worsening 
pain, weakness, or incontinence
# CODE: Full 
# CONTACT: ___ /___ OR 
___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ClonazePAM 0.5 mg PO Q8H:PRN anxiety 
2. HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO Q8H:PRN Pain - 
Moderate 
3. Levothyroxine Sodium 88 mcg PO DAILY 
4. Sertraline 50 mg PO DAILY 

 
Discharge Medications:
1.  Gabapentin 300 mg PO TID 
RX *gabapentin 300 mg 1 capsule(s) by mouth Three times a day 
Disp #*90 Capsule Refills:*0 
2.  Lidocaine 5% Patch 1 PTCH TD QPM 
RX *lidocaine [Lidoderm] 5 %  Daily Disp #*30 Patch Refills:*0 
3.  HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO Q4H:PRN Pain 
- Moderate  
4.  ClonazePAM 0.5 mg PO Q8H:PRN anxiety  
5.  Levothyroxine Sodium 88 mcg PO DAILY  
6.  Sertraline 50 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis
- Urinary and fecal incontinence
- Acute back pain
Secondary diagnosis
- Chronic back pain
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,
 
You were admitted to the hospital because you were having back 
pain and incontinence for the past two weeks. We did an MRI of 
your spine which did not show any compression of your spinal 
cord or other dangerous causes for the incontinence. You were 
able to walk and your incontinence improved. We treated your 
pain and felt you were safe for discharge. 

Continue taking your home Vicodin and ibuprofen. Do NOT take any 
Tylenol, as that is contained in your Vicodin. You may take more 
Vicodin (up to 6 times per day) if you need it to control your 
pain. 
 
Please contact your PCP (___) to arrange follow up and 
to work up your symptoms within the next week. 
 
If you develop any worsening leg pain, leg weakness, or 
worsening incontinence, please call your PCP or return to the ER 
immediately.
 
Please call the spine clinic (___) to schedule an 
appointment within the next two weeks.
 
It was a privilege caring for you in the hospital, and we wish 
you all the best.
 
Sincerely,
 
Your ___ Health Team
 
Followup Instructions:
___